US09422240B2
To a mixture of N-[(benzyloxy)carbonyl]glycine (5.33 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.86 g), 1-hydroxybenzotriazole monohydrate (4.68 g) and chloroform (51.0 mL), 2-(trimethylsilyl)ethanol (4.36 mL) was added and the mixture was stirred at room temperature for 8 hours. To the reaction mixture, 2-(trimethylsilyl)ethanol (3.00 mL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.93 g) and 4-dimethylaminopyridine (312 mg) were added and the mixture was stirred at room temperature for 65 hours. After pouring the reaction mixture into a saturated aqueous solution of ammonium chloride, three extractions were conducted with ethyl acetate. The combined organic layers were washed with saturated brine and dried over anhydrous magnesium sulfate. After removing the desiccant by filtration, the filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5-80:20) to give 2-(trimethylsilyl)ethyl N-[(benzyloxy)carbonyl]glycinate as a colorless oil (6.64 g).

reactant | N-[(benzyloxy)carbonyl]glycine | 5.33 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.86 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 4.68 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(trimethylsilyl)ethanol | 4.36 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | 2-(trimethylsilyl)ethanol | 3.00 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.93 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 312 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 51.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(trimethylsilyl)ethyl N-[(benzyloxy)carbonyl]glycinate | 6.64 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)OCC[Si](C)(C)C | C15H23NO4Si
